US06734179B2
To a stirred solution of 3.30 g (14.0 mmol) 4-(4-methoxy-3-nitro-phenyl)-3,6-dihydro-2H-pyran in 70 ml methanol and 70 ml dichloromethane was added a spatula end of 10% palladium on charcoal and the mixture was then stirred for 20 minutes at room temperature under an atmosphere of hydrogen. The mixture was then filtered, washing with dichloromethane, and the filtrate concentrated in vacuo to afford 2.75 g (95%) 2-methoxy-5-(tetrahydro-pyran-4-yl)-phenylamine as an off-white crystalline solid. ES-MS m/e (%): 208 (M+H+, 100).

reactant | 4-(4-methoxy-3-nitro-phenyl)-3,6-dihydro-2H-pyran | 14.0 mmol, 3.30 g | COC1=C(C=C(C=C1)C=1CCOCC1)[N+](=O)[O-] | C12H13NO4
solvent | methanol | 70 ml | CO | CH4O
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
catalyst | palladium on charcoal | [Pd] | Pd
product | 2-methoxy-5-(tetrahydro-pyran-4-yl)-phenylamine | 2.75 g, 95% | COC1=C(C=C(C=C1)C1CCOCC1)N | C12H17NO2
